US08455646B2
Preparation of 2-(3-fluorophenyl)-2-(3-fluorophenylamino)acetic acid (I11)
To a solution of ethyl 2-(3-fluorophenyl)-2-(3-fluorophenylamino)-acetate (2.00 g, 6.81 mmol) in THF/H2O (1:1 mixture, 10 mL), is added LiOH (816 mg, 34.0 mmol) and the mixture is reacted for 2 hours at RT (LC-MS monitoring: complete conversion). 1N HCl (15 mL) is added and the desired compound is extracted with EtOAc. The resulting crude is purified by flash chromatography (Hexane/EtOAc=1/1) in order to obtain 1.79 g of I11 as a pale yellow solid (99% yield).

reactant | ethyl 2-(3-fluorophenyl)-2-(3-fluorophenylamino)-acetate | 6.81 mmol, 2.00 g | FC=1C=C(C=CC1)C(C(=O)OCC)NC1=CC(=CC=C1)F | C16H15F2NO2
reactant | LiOH | 34.0 mmol, 816 mg | [Li+].[OH-]
reactant | HCl | 1N, 15 mL | Cl | ClH
solvent | THF H2O | 10 mL | C1CCOC1.O
product | 2-(3-fluorophenyl)-2-(3-fluorophenylamino)acetic acid | 99% yield | FC=1C=C(C=CC1)C(C(=O)O)NC1=CC(=CC=C1)F | C14H11F2NO2
